US08629137B2
3-[1-(6-benzoyl-pyrimidin-4-yl)-piperidin-4-yl]-7-methoxy-1,3,4,5-tetrahydro-benzo[d]-[1,3]diazepin-2-one
Under a nitrogen atmosphere 100 mg (0.227 mmol) 6-[4-(7-methoxy-2-oxo-1,2,4,5-tetrahydro-benzo[d][1,3]diazepin-3-yl)-piperidin-1-yl]-pyrimidine-4-carboxylic acidmethoxy-methyl-amide were cooled to −10° C. in 5.00 mL THF and combined with 0.400 mL (0.400 mmol) phenylmagnesium bromide solution (1M in THF). The mixture was stirred for 1 h at −10° C. and then heated to 0° C. Then 0.200 mL (0.200 mmol) phenylmagnesium bromide solution (1M in THF) were added, the mixture was stirred for 1 h and then heated to RT. The reaction mixture was combined with a saturated ammonium chloride solution and extracted with EtOAc. The combined organic phases were dried and evaporated down i. vac. The residue was purified by preparative HPLC-MS. The fractions containing the product were combined and evaporated down by half. The precipitate formed was suction filtered and dried.

reactant | 6-[4-(7-methoxy-2-oxo-1,2,4,5-tetrahydro-benzo[d][1,3]diazepin-3-yl)-piperidin-1-yl]-pyrimidine-4-carboxylic acidmethoxy-methyl-amide | 0.227 mmol, 100 mg | CON(C(=O)C1=NC=NC(=C1)N1CCC(CC1)N1C(NC2=C(CC1)C=C(C=C2)OC)=O)C | C22H28N6O4
reactant | phenylmagnesium bromide | 0.400 mmol, 1M, 0.400 mL | C1(=CC=CC=C1)[Mg]Br
reactant | phenylmagnesium bromide | 0.200 mmol, 1M, 0.200 mL | C1(=CC=CC=C1)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 5.00 mL | C1CCOC1 | C4H8O
product | 3-[1-(6-benzoyl-pyrimidin-4-yl)-piperidin-4-yl]-7-methoxy-1,3,4,5-tetrahydro-benzo[d]-[1,3]diazepin-2-one | C(C1=CC=CC=C1)(=O)C1=CC(=NC=N1)N1CCC(CC1)N1C(NC2=C(CC1)C=C(C=C2)OC)=O | C26H27N5O3
